US06492562B1
A. N-Propionyl-2-benzoxazolone
A solution of 135 g of 2-benzoxazolone (1.0 mol) in 750 mL of acetone was treated with 14 g (0.1 mol) of potassium carbonate and with 130 mL (1.0 mol) of propionic anhydride at ambient temperature with stirring. After 4 hours, the mixture was poured into 3000 mL of water with vigorous stirring. The precipitated product was collected by vacuum filtration, washed with water, and air dried to yield 187 g (98%) of light tan-colored product suitable for further use; mp=88-90° C. (uncorr). Recrystallization from ether/hexane yields the pure product, 172 g (90% yield), mp=92-93° C. (uncorr). 1H-NMR (CDCl3, 400 MHz): δ 8.07 (1H, m); 7.21 (1H, m); 7.22-7.28 (2H, m); 3.12 (2H, q, J=7 Hz); 1.28 (3H, t, J=7 Hz). 13C-NMR (CDCl3, 100 MHz): δ 173.3, 151.3, 142.2, 127.8, 125.1, 124.7, 115.9, 109.7, 30.4, 7.9.

reactant | 2-benzoxazolone | 1.0 mol, 135 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | potassium carbonate | 0.1 mol, 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | propionic anhydride | 1.0 mol, 130 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 3000 mL | O | H2O
solvent | acetone | 750 mL | CC(=O)C | C3H6O
product | N-Propionyl-2-benzoxazolone | 90% yield | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
